US04794122
1.5 g (50 mmol-80%) of sodium hydride were added under nitrogen to a stirred solution of 7.6 g (50 mmol) of 2-benzimidazolethiol in 76 ml of dimethylformamide and after one hour, 7.2 g (40 mmol) of 2-chloromethyl-benzothiazole were added with ice cooling. The mixture stood at room temperature for 2 hours and the solution was concentrated under reduced pressure in a nitrogen stream. The residue was dissolved in ethyl acetate and the solution was washed with ice cold 2N sodium hydroxide solution and aqueous saturated sodium chloride solution, was dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 6.91 g (58% yield) of 2-(1H-benzimidazol-2-yl-thiomethyl)-benzothiazole in the form of pale yellow crystals after crystallization from dichloromethane melting at 159°-162° C.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | 2-benzimidazolethiol | 50 mmol, 7.6 g | N1=C(NC2=C1C=CC=C2)S | C7H6N2S
reactant | 2-chloromethyl-benzothiazole | 40 mmol, 7.2 g | ClCC=1SC2=C(N1)C=CC=C2 | C8H6ClNS
solvent | dimethylformamide | 76 ml | CN(C=O)C | C3H7NO
product | 2-(1H-benzimidazol-2-yl-thiomethyl)-benzothiazole | 6.91 g, 58% yield | N1C(=NC2=C1C=CC=C2)SCC=2SC1=C(N2)C=CC=C1 | C15H11N3S2
